US06605629B1
To a mixture of 2-chloro-4-(4-chlorophenyl)-5-thiazolepropanol (1.90 g), 2-methylphenol (1.30 g), tributylphosphine (2.43 g) and tetrahydrofuran (30 ml) was added 1,1′-(azodicarbonyl)dipiperidine (2.50 g) at room temperature, and the resulting mixture was stirred for 1 hour. After the reaction mixture was concentrated, and the residue was subjected to silica gel column chromatography. The ethyl acetate-hexane (1:1, v/v)-eluted fraction was concentrated to give a yellow oil, which was dissolved in N,N-dimethylformamide (10 ml). 2-Methylimidazole (1.64 g) and potassium carbonate (2.76 g) were added to the reaction mixture, which was stirred at 120-130° C. for 4 hours. The reaction mixture was poured into water (100 ml), and the resulting solid precipitate was filtered, air-dried and recrystallized from acetone-hexane to give 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-[3-(2-methylphenoxy)propyl]thiazole as pale yellow prisms (394 mg, 14%). Melting point 112-113° C.

reactant | 2-chloro-4-(4-chlorophenyl)-5-thiazolepropanol | 1.90 g | ClC=1SC(=C(N1)C1=CC=C(C=C1)Cl)CCCO | C12H11Cl2NOS
reactant | 2-methylphenol | 1.30 g | CC1=C(C=CC=C1)O | C7H8O
reactant | tributylphosphine | 2.43 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 2.50 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | 2-Methylimidazole | 1.64 g | CC=1NC=CN1 | C4H6N2
reactant | potassium carbonate | 2.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-[3-(2-methylphenoxy)propyl]thiazole | 394 mg, 14% | ClC1=CC=C(C=C1)C=1N=C(SC1CCCOC1=C(C=CC=C1)C)N1C(=NC=C1)C | C23H22ClN3OS
